US07138425B2
c) 2-[2-Methoxy-5-[5-(4-ethylsulfonylphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-amino-4-methoxyphenyl)-5-(4-ethylsulfonylphenyl)benzoxazole (63 mg, 0.15 mmol) and 1,2,4-benzenetricarboxylic anhydride (29 mg, 0.15 mmol) the title compound was obtained (34 mg, 39%). 1H NMR (DMSO) δ 8.57(dd, 1H), 8.57(m, 4H), 8.30(d, 1H) 8.10(m, 4H), 8.03(d, 1H), 7.92(dd, 1H), 7.61(d, 1H), 4.00(s, 3H), 3.45(q, 2H), 1.25(t, 3H). MS 583 m/z (M+H)+.

reactant | 2-(3-amino-4-methoxyphenyl)-5-(4-ethylsulfonylphenyl)benzoxazole | 0.15 mmol, 63 mg | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)CC | C22H20N2O4S
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.15 mmol, 29 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[2-Methoxy-5-[5-(4-ethylsulfonylphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)CC)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C31H22N2O8S
